US04622295
Further, each fraction of FG3 and FG5 was taken out and dissolved in a 0.1 M sodium acetate buffer containing 10 mM calcium acetate buffer solution (pH 5.5), followed by addition of takaamylase A for hydrolyses at 37° C. for 3 hours. The hydrolyzed products were tested by HPLC and TLC. From FG5, there were produced FG3 and maltose, but FG3 was not hydrolyzed by takaamylase A. When FG3 was added to 0.3N HCl and hydrolyzed at 100° C. for 30 minutes, the products were maltose, glucose and 2 kinds of compounds having fluorescence but no maltotriose was produced.

reactant | calcium acetate | 10 mM, pH 5.5 | C(C)(=O)[O-].[Ca+2].C(C)(=O)[O-]
reactant | maltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
reactant | HCl | 0.3N | Cl | ClH
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | sodium acetate | 0.1 M | C(C)(=O)[O-].[Na+]
product | maltotriose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O)CO)CO)O)O)O)O | C18H32O16
